US07968542B2
Synthesis of 5-{1-[5-(4-bromophenyl)-4-hydroxythiophen-3-yl]ethylidenehydrazinocarbonyl}thiophene-2-carboxylic acid 3-picolylamide
2-(4-Bromophenyl)-3-hydroxy-4-methylcarbonylthiophene (50.5 mg, 0.17 mmol) (synthesized in accordance with WO2004/108683) and 5-hydrazinocarbonylthiophene-2-carboxylic acid 3-picolylamide prepared in Reference Synthetic Example 11 were dissolved in dimethylsulfoxide (4.0 mL) and heated at 110° C. for 24 hours. The solvent was evaporated, and the residue was washed with methanol and water to give the desired product (yield 81%).

reactant | 2-(4-Bromophenyl)-3-hydroxy-4-methylcarbonylthiophene | 0.17 mmol, 50.5 mg | BrC1=CC=C(C=C1)C=1SC=C(C1O)C(=O)C | C12H9BrO2S
reactant | 5-hydrazinocarbonylthiophene-2-carboxylic acid 3-picolylamide | N1=CC(=CC=C1)CNC(=O)C=1SC(=CC1)C(=O)NN | C12H12N4O2S
solvent | dimethylsulfoxide | 4.0 mL | CS(=O)C | C2H6OS
product | 5-{1-[5-(4-bromophenyl)-4-hydroxythiophen-3-yl]ethylidenehydrazinocarbonyl}thiophene-2-carboxylic acid 3-picolylamide | yield 81% | N1=CC(=CC=C1)CNC(=O)C=1SC(=CC1)C(=O)NN=C(C)C1=CSC(=C1O)C1=CC=C(C=C1)Br | C24H19BrN4O3S2
